US07148229B2
1-Butyl-3-(2-fluorobenzyl)-6-[2-(4-nitro-phenyl)-ethylamino]-1H-pyrimidine-2,4-dione (2.0 g, 4.46 mmol) was dissolved in methanol (100 mL) and treated with zinc dust (<10 μm, Aldrich; 2.91 g) followed by the addition of a solution of ammonium chloride (5.96 g, 112 mmol) in water (50 mL). The reaction mixture was stirred at room temperature for 3 h. The reaction mixture was then filtered through a pad of celite. The filtrate was concentrated to remove methanol and the residual aqueous solution was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried (sodium sulfate) and concentrated in vacuo to afford 8-(4-amino-benzyl)-3-butyl-1-(2-fluorobenzyl)-3,7-dihydro-purine-2,6-dione as a pale yellow solid (1.64 g, 87%). LCMS, m/z(M+H)=422.18.

reactant | 1-Butyl-3-(2-fluorobenzyl)-6-[2-(4-nitro-phenyl)-ethylamino]-1H-pyrimidine-2,4-dione | 4.46 mmol, 2.0 g | C(CCC)N1C(N(C(C=C1NCCC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=C(C=CC=C1)F)=O | C23H25FN4O4
reactant | ammonium chloride | 112 mmol, 5.96 g | [Cl-].[NH4+]
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
catalyst | zinc | 2.91 g | [Zn] | Zn
product | 8-(4-amino-benzyl)-3-butyl-1-(2-fluorobenzyl)-3,7-dihydro-purine-2,6-dione | 1.64 g, 87% | NC1=CC=C(CC2=NC=3N(C(N(C(C3N2)=O)CC2=C(C=CC=C2)F)=O)CCCC)C=C1 | C23H24FN5O2
